US08084449B2
Methyl 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylate (580 mg, 1.243 mmol) was dissolved in tetrahydrofuran (15 mL) and water (5.00 ml) was added. Lithium hydroxide (78 mg, 1.865 mmol) was added and the mixture stirred under argon at room temperature overnight. The THF was evaporated off and the aqueous residue was adjusted to ˜pH of 6 with 1N HCL. A white solid slowly formed. The white solid was filtered and washed 2× with water (5 mL). The pH of the filtrate was checked and was found to be 8. The pH was gradually lowered to 4 with 1N HCl. At this point no additional solid appeared to be forming. The solid was filtered and washed 2× with water (5 mL). The combined solid was dried at 50° C. in a vacuum oven for 6 hours to give 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (533 mg, 1.178 mmol, 95% yield) as a white solid. LC-MS m/z 453 (M+H)+, 0.71 min (ret time).

reactant | Methyl 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylate | 1.243 mmol, 580 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)OC)CC | C24H30N6O4
reactant | water | 5.00 ml | O | H2O
reactant | Lithium hydroxide | 1.865 mmol, 78 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 1.178 mmol, 533 mg, 95% yield | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
